US05455274
A stirred solution of 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (200 mg, 0.4 mmol) in 4 mL of dichloromethane at 0° C. is treated with aluminum chloride (292 mg, 2.2 mmol) and ethanethiol (4 mL, 54 mmol). After stirring at 0° C. for 1 hour, reaction mixture is partitioned between ethyl acetate and saturated ammonium hydroxide solution. The organic phase is dried with magnesium sulfate and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (10 g) with 5% methanol/dichloromethane as the eluent to afford 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-3-hydroxy-N,N-bis(1-methylethyl)benzamide as a colorless foam;

reactant | 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | 0.4 mmol, 200 mg | NC(C1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1)=NO | C26H37N3O5
reactant | aluminum chloride | 2.2 mmol, 292 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 54 mmol, 4 mL | C(C)S | C2H6S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-3-hydroxy-N,N-bis(1-methylethyl)benzamide | NC(C1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1)=NO | C25H35N3O5
